US07141561B2
1-(4-Fluoro-3-nitrophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
4-Fluoro-3-nitrophenyl isocyanate (0.45 ml) was added to a solution of (2,2-dimethoxyethyl)-(4-phenoxyphenyl)amine (750 mg) in chloroform (10 ml). The reaction was shaken at 70° C. for 2 hours. A second portion of 4-fluoro-3-nitrophenyl isocyanate (0.45 ml) was added. After 16 hours at 70° C., volatiles were removed and TFA.(10 ml) was added. After shaking for 16 hours, volatiles were removed and the residue was purified by chromatography on silica gel (eluent: dichloromethane/hexane 8:1). The product with the molecular weight of 391.36 (C21 H14FN3O4); MS (ESI): 392 ([M+H]+), was obtained in this way.

reactant | 4-Fluoro-3-nitrophenyl isocyanate | 0.45 ml | FC1=C(C=C(C=C1)N=C=O)[N+](=O)[O-] | C7H3FN2O3
reactant | (2,2-dimethoxyethyl)-(4-phenoxyphenyl)amine | 750 mg | COC(CNC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C16H19NO3
reactant | 4-fluoro-3-nitrophenyl isocyanate | 0.45 ml | FC1=C(C=C(C=C1)N=C=O)[N+](=O)[O-] | C7H3FN2O3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Fluoro-3-nitrophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | FC1=C(C=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)[N+](=O)[O-] | C21H14FN3O4
